US09301951B2
(S)—N1-methyl-N1-(2-(3-oxopiperazin-1-yl)ethyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide
This compound was prepared according to the procedure described for the synthesis of Example 187 using piperazin-2-one in place of L-proline-tert-butyl ester. Into a 50-mL round-bottom flask, was placed a solution of (S)—N1-methyl-N1-(2-oxoethyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide (100 mg, 0.16 mmol, 1.00 equiv) in ethanol (5 mL), piperazin-2-one (20 mg, 0.20 mmol, 1.20 equiv). This was followed by the addition of acetic acid (20 mg, 0.33 mmol, 2.20 equiv). The mixture was allowed to react with stirring for 1 h at room temperature. To this was added NaBH3CN (22 mg, 0.35 mmol, 2.20 equiv). The resulting solution was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum. The pH value of the solution was adjusted to 7 with sodium bicarbonate (2 mol/L). The resulting solution was extracted with 3×20 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (120 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-3): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% TFA and CH3CN (20% CH3CN up to 40% in 6 min); Detector, Waters2545 UvDector 254&270 nm. 91.4 mg product was obtained. This resulted in 91.4 mg (54%) of (S)—N1-methyl-N1-(2-(3-oxopiperazin-1-yl)ethyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide as a yellow solid. LCMS (ES, m/z): 714 [M+H]+ H-NMR (300 MHz, CD3OD, ppm): 8.94 (m, 1H), 8.70 (m, 1H), 8.40 (s, 2H), 8.12 (m, 3H), 7.85 (m, 1H), 7.72 (m, 3H), 7.17 (m, 3H), 5.39 (s, 1H), 3.94 (m, 3H), 3.56 (m, 7H), 3.09 (m, 3H), 2.86 (m, 3H), 1.95 (m, 8H).

reactant | piperazin-2-one | N1C(CNCC1)=O | C4H8N2O
reactant | (S)—N1-methyl-N1-(2-oxoethyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | 0.16 mmol, 100 mg, 1.00 equiv | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)CC=O | C38H39N5O4
reactant | piperazin-2-one | 0.20 mmol, 20 mg, 1.20 equiv | N1C(CNCC1)=O | C4H8N2O
reactant | acetic acid | 0.33 mmol, 20 mg, 2.20 equiv | C(C)(=O)O | C2H4O2
reactant | NaBH3CN | 0.35 mmol, 22 mg, 2.20 equiv | [BH3-]C#N.[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (S)—N1-methyl-N1-(2-(3-oxopiperazin-1-yl)ethyl)-N3-(4-(piperidin-1-yl)-2-(4-(1,2,3,4-tetrahydronaphthalen-1-ylcarbamoyl)pyridin-2-yl)phenyl)isophthalamide | 91.4 mg | CN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)CCN1CC(NCC1)=O | C42H47N7O4
